US03954859
The reaction of a benzene with phosphorus trichloride to form a phenylphosphine dichloride involves reaction of one mole of the benzene with one mole of the phosphorus trichloride. Thus, the reaction may be carried out employing one mole of the benzene for each mole of phosphorus trichloride. However, it is preferred to employ an excess of the benzene over phosphorus trichloride. Thus, it is preferred to carry out the reaction employing a molar ratio of the benzene to phosphorus trichloride of 3:1 to 10:1.

reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | benzene | C1=CC=CC=C1 | C6H6
product | phenylphosphine dichloride | [Cl-].[Cl-].C1(=CC=CC=C1)P | InChI=1S/C6H7P.2ClH/c7-6-4-2-1-3-5-6;;/h1-5H,7H2;2*1H/p-2
